US05344843
A stirred mixture of 1-(4-mercaptophenyl)ethanone (0.76 g) in dimethylformamide (10 mL) under argon was treated with 55% sodium hydride (0.218 g), stirred for 20 minutes and treated with 2-(cyclooctyloxy)ethyl methanesulfonate (1.25 g). The mixture was heated at 60° C. overnight, cooled, diluted with water, extracted twice with dichloromethane, and the organic layers were washed with water. The combined organic layers were dried (Na2SO4), filtered, and evaporated to give crude material which was purified by HPLC (dichloromethane-hexane-ethyl acetate; 48:48:4) to provide 1.08 g of 1-[4-[[2-(cyclooctyloxy)ethyl]thio]phenyl]ethanone as a colorless oil.

reactant | 1-(4-mercaptophenyl)ethanone | 0.76 g | SC1=CC=C(C=C1)C(C)=O | C8H8OS
reactant | sodium hydride | 0.218 g | [H-].[Na+]
reactant | 2-(cyclooctyloxy)ethyl methanesulfonate | 1.25 g | CS(=O)(=O)OCCOC1CCCCCCC1 | C11H22O4S
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[4-[[2-(cyclooctyloxy)ethyl]thio]phenyl]ethanone | 1.08 g | C1(CCCCCCC1)OCCSC1=CC=C(C=C1)C(C)=O | C18H26O2S
